US07211672B2
(±)-Cis-2-{4-[4-(acetyl-phenyl-amino)-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl]-phenylamino}-propionic acid methyl ester (A-117)
(±)-Cis-2-{4-[4-(acetyl-phenyl-amino)-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl]-phenylamino}-propionic acid methyl ester was prepared from (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide. A mixture of (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide (210 mg, 0.53 mmol), potassium carbonate (123 mg, 0.89 mmol), and methyl 2-bromopropionate (70 uL, 0.63 mmol) in dry dimethylformamide (2 mL) was heated at 100° C. for 6 h, then cooled to room temperature and stirred with 20 ml water until all of the salts dissolved. The aqueous layer was separated and was extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting oil was purified by silica gel chromatography, eluting with (97:3 methylene chloride/methanol) to afford the title compound (220 mg, 87%).

reactant | (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H27N3O2
reactant | (±)-cis-N-[1-(4-amino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-phenyl-propionamide | 0.53 mmol, 210 mg | NC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(CC)=O)C2=CC=CC=C2)C)C=C1 | C26H27N3O2
reactant | potassium carbonate | 0.89 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 0.63 mmol, 70 uL | BrC(C(=O)OC)C | C4H7BrO2
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (±)-Cis-2-{4-[4-(acetyl-phenyl-amino)-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl]-phenylamino}-propionic acid methyl ester | 220 mg, 87% | COC(C(C)NC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=CC=C1)C(C)=O)C)=O | C29H31N3O4
